US05530019
The procedure of Ex. 2 was repeated except that ethyl 4-(3-dodecanoyl-1-indolyl)butyrate obtained in Ex. 11 was used in place of ethyl 4-(3-heptanoyl-1-indolyl)butyrate to give 4-(3-dodecanoyl-1-indolyl)butyric acid.

reactant | ethyl 4-(3-dodecanoyl-1-indolyl)butyrate | C(CCCCCCCCCCC)(=O)C1=CN(C2=CC=CC=C12)CCCC(=O)OCC | C26H39NO3
reactant | ethyl 4-(3-heptanoyl-1-indolyl)butyrate | C(CCCCCC)(=O)C1=CN(C2=CC=CC=C12)CCCC(=O)OCC | C21H29NO3
product | 4-(3-dodecanoyl-1-indolyl)butyric acid | C(CCCCCCCCCCC)(=O)C1=CN(C2=CC=CC=C12)CCCC(=O)O | C24H35NO3
